US05053414
Synthesis of (3RS)-3-[(2S)-1-[3-(N-benzyl-N-methylcarbamoyl)propanoyl]pyrrolidin-2-yl]-3-hydroxypropionic acid ethyl ester
Zinc powder (482 mg) and a small amount of iodine were added to a solution of ethyl bromoacetate (0.70 ml) in THF (6 ml). The mixture was refluxed for 30 mins. The solution was added dropwise to a solution of (2S)-1-[3-(N-benzyl-N-methylcarbamoyl)propanoyl]pyrrolidin-2-al (1.21 g) in benzene (10 ml). The mixture was refluxed for 30 mins. After reaction, 1N hydrochloric acid was added to the mixture. The mixture was extracted with EtOAc. The extract was washed, dried, and evaporated. The residue was purified by column chromatography on silica gel (hexane-EtOAc) to give the title compound (1.21 g) having the following physical data:

reactant | iodine | II | I2
reactant | ethyl bromoacetate | 0.70 ml | BrCC(=O)OCC | C4H7BrO2
reactant | (2S)-1-[3-(N-benzyl-N-methylcarbamoyl)propanoyl]pyrrolidin-2-al | 1.21 g | C(C1=CC=CC=C1)N(C(=O)CCC(=O)N1[C@@H](CCC1)C=O)C | C17H22N2O3
reactant | hydrochloric acid | 1N | Cl | ClH
solvent | THF | 6 ml | C1CCOC1 | C4H8O
solvent | benzene | 10 ml | C1=CC=CC=C1 | C6H6
catalyst | Zinc | 482 mg | [Zn] | Zn
product | (3RS)-3-[(2S)-1-[3-(N-benzyl-N-methylcarbamoyl)propanoyl]pyrrolidin-2-yl]-3-hydroxypropionic acid ethyl ester | 1.21 g | C(C)OC(CC(O)[C@H]1N(CCC1)C(CCC(N(C)CC1=CC=CC=C1)=O)=O)=O | C21H30N2O5
